US05200415
Synthesis of ethyl 7-propylpyrazolo[1,5-a]-pyridine-3-carboxylate
Next, 2.41 g (22.7 mmol) of Na2CO3 were added to a solution of 5.0 g (18.9 mmol) of 1-amino-2-propylpyridinium iodide in 20 ml of DMF, followed by stirring at room temperature for 1 hour. Ethyl propiolate (3.71 g; 37.9 mmol) was added further, followed by stirring at room temperature for 20 hours. After the reaction, the reaction mixture was treated in a similar manner to the preparation of the 7-ethyl derivative, whereby 1.45 g (6.25 mmol) of the title compound were obtained as crystals from CH2Cl2 :hexane=1:1 eluate fractions (yield: 33% - 9% in two steps).

reactant | Na2CO3 | 22.7 mmol, 2.41 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1-amino-2-propylpyridinium iodide | 18.9 mmol, 5.0 g | [I-].N[N+]1=C(C=CC=C1)CCC
reactant | Ethyl propiolate | 37.9 mmol, 3.71 g | C(C#C)(=O)OCC | C5H6O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | ethyl 7-propylpyrazolo[1,5-a]-pyridine-3-carboxylate | 6.25 mmol, 1.45 g, yield: 33% - 9% | C(CC)C1=CC=CC=2N1N=CC2C(=O)OCC | C13H16N2O2
